US07268159B2
Synthesis of 1-[4-(2,5-dimethyl-1H-pyrrol-1-yl)benzyl]-3-phenyl-1H-indole-2-carboxylic acid
A mixture of 1-(4-amino-benzyl)-3-phenyl-1H-indolecarboxylic acid ethyl ester (0.20 g, 0.54 mmol), acetonylacetone (0.16 mL, 1.35 mmol), and toluene (15 mL) was heated at reflux under nitrogen using a Dean-Stark trap for 6 h. The reaction was cooled and concentrated. The residue was re-dissolved in 10 mL of 2:1:1 THF/MeOH/water. Lithium hydroxide monohydrate (0.09 g, 2.1 mmol) was added and the mixture was stirred at room temperature overnight. Most of the organic solvents was removed and the reaction mixture was made acidic (pH 6) with glacial acetic acid, and the solid was collected and purified by HPLC to afford the title compound (0.027 g, 6%) as a brown solid: 1H NMR (DMSO-d6) δ 1.91 (s, 6H), 5.75 (s, 2H), 7.01-7.30 (m, 6H), 7.32-7.38 (m, 2H), 7.40-7.50 (m, 6H), 7.68 (d, J=8.54 Hz, 1H), 12.80 (br s, 1H); MS (ESI) m/z 421 (MH+); MS (ESI) m/z 419 ([M−H]−); HRMS calcd for C28H26N2O2: 421.1905; found (ESI+): 421.1915.

reactant | 1-(4-amino-benzyl)-3-phenyl-1H-indolecarboxylic acid ethyl ester | 0.54 mmol, 0.20 g | C(C)OC(=O)C=1N(C2=CC=CC=C2C1C1=CC=CC=C1)CC1=CC=C(C=C1)N | C24H22N2O2
reactant | acetonylacetone | 1.35 mmol, 0.16 mL | C(C(=O)C)CC(C)=O | C6H10O2
reactant | Lithium hydroxide monohydrate | 2.1 mmol, 0.09 g | O.[OH-].[Li+]
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
product | 1-[4-(2,5-dimethyl-1H-pyrrol-1-yl)benzyl]-3-phenyl-1H-indole-2-carboxylic acid | 0.027 g, 6% | CC=1N(C(=CC1)C)C1=CC=C(CN2C(=C(C3=CC=CC=C23)C2=CC=CC=C2)C(=O)O)C=C1 | C28H24N2O2
